US05519034
A mixture of 1-[1-(2-chlorophenyl)cyclopropyl]-7-methoxy-1,2,3,4-tetrahydroisoquinoline (2.5 g, prepared as described in Example RC10), 37-40% aqueous formaldehyde solution (2.9 ml), sodium cyanoborohydride (0.75 g) and acetonitrile (100 ml) was stirred for 15 minutes. Glacial acetic acid was added to neutralise the solution and stirring was continued for a further 45 minutes. The mixture was basified with aqueous sodium hydroxide solution, then extracted with ethyl acetate. The extracts yielded 1-[1-(2-chlorophenyl)cyclopropyl]-7-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline.

reactant | 1-[1-(2-chlorophenyl)cyclopropyl]-7-methoxy-1,2,3,4-tetrahydroisoquinoline | 2.5 g | ClC1=C(C=CC=C1)C1(CC1)C1NCCC2=CC=C(C=C12)OC | C19H20ClNO
reactant | formaldehyde | 2.9 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.75 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-[1-(2-chlorophenyl)cyclopropyl]-7-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | ClC1=C(C=CC=C1)C1(CC1)C1N(CCC2=CC=C(C=C12)OC)C | C20H22ClNO
